US04882323
C. hexahydro-1-(2-nitrophenyl)-5-phenyl-1H-1,2,5-triazepine
A mixture of hexahydro-5-phenyl-1H-1,2,5-triazepine dihydrochloride (15.0 g), 1-fluoro-2-nitrobenzene (9.48 ml), N,N-diisopropylethylamine (36.5 ml) in N,N-dimethylformamide (150 ml) was magnetically stirred and heated at 75°-80° for 5 hours under nitrogen. The solution was evaporated under oil pump vacuum and the residual syrup was mixed with chloroform and dilute sodium hydroxide. The aqueous phase was extracted once more with chloroform and the combined chloroform extracts were dried (MgSO4). The solution was evaporated to a syrup which was subjected to an oil pump vacuum. This material in benzene was applied to a column (80×4.0 cm) of dry column grade neutral alumina (Woelm) prepacked in benzene. Elution was with benzene and monitoring of fractions was by t.l.c. on Alox 25 uv254 plates (Brinkmann) with benzene as developer. The fractions containing the major component were evaporated to a syrup which was crystallized from benzeneheptane; wt. 13.82 g (78%), mp=118°-120°. Recrystallization from benzeneheptane gave pure titled product, mp=119° -121°.

reactant | hexahydro-5-phenyl-1H-1,2,5-triazepine dihydrochloride | 15.0 g | Cl.Cl.C1(=CC=CC=C1)N1CCNNCC1
reactant | 1-fluoro-2-nitrobenzene | 9.48 ml | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | N,N-diisopropylethylamine | 36.5 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | hexahydro-1-(2-nitrophenyl)-5-phenyl-1H-1,2,5-triazepine | [N+](=O)([O-])C1=C(C=CC=C1)N1NCCN(CC1)C1=CC=CC=C1 | C16H18N4O2
